US07569579B2
Preparation 6B: N-methyl-N-[((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]benzenesulfonamide
Iodomethane (2.12 g, 14.9 mmol, 4 eq) was added portionwise to N-[((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]benzenesulfonamide (1.71 g, 3.74 mmol, 1 eq), accessed via the method of preparation 5B, in 7 mL DMF with potassium carbonate (1.03 g, 7.48 mmol, 2 eq) over 6 h at 80° C. Following addition, the reaction mixture was stirred 16 h at 80° C. The reaction mixture was diluted with EtOAc, washed successively with saturated aqueous NaHCO3, water (4×) and brine, dried over MgSO4, filtered and concentrated to give a brown oil. The crude material was purified by flash chromatography (SiO2, eluted successively with hexanes and EtOAc/hexanes (1:4)) to give the title product (1.57 g, 100%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 7.58-7.21 (m, 15H), 4.26 (ABq, J=26.5, 11.7 Hz, 2H), 3.50 (d, J=14.0 Hz, 1H), 3.23-3.20 (m, 1H), 2.94-2.89 (m, 2H), 2.54 (s, 3H), 1.39 (m, 1H), 1.10 (m, 1H), 0.92 (m, 1H). ES-LCMS m/z 444.3 (M+Na).

reactant | Iodomethane | 14.9 mmol, 2.12 g, 4 eq | IC | CH3I
reactant | N-[((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]benzenesulfonamide | 3.74 mmol, 1.71 g, 1 eq | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CNS(=O)(=O)C1=CC=CC=C1 | C24H25NO3S
reactant | potassium carbonate | 7.48 mmol, 1.03 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-methyl-N-[((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]benzenesulfonamide | 1.57 g, 100% | CN(S(=O)(=O)C1=CC=CC=C1)C[C@]1([C@@H](C1)COCC1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO3S
